US06191138B1
A1. (+/−)-cis-N-[2-(3,4-dimethoxyphenyl)cyclohexyl]-4-methoxycarbonylbenzamide
2.6 g of (+/−)-cis-1,2-dimethoxy-4-(2-aminocyclohexyl)benzene are dissolved in 20 ml of methylene chloride and 1 ml of triethylamine. At RT, a solution of 2.4 g of 4-methoxycarbonylbenzoyl chloride in 30 ml of methylene chloride is added dropwise over a period of 3 h, and the mixture is stirred for 1 h and then extracted with 50 ml each of water, 2 N hydrochloric acid, sat. sodium bicarbonate solution and once more with water. The organic phase is dried with sodium sulfate, concentrated and crystallized from ethyl acetate. This gives 2.0 g (45.5% of Th.) of the title compound of m.p. 139-143° C.

reactant | (+/−)-cis-1,2-dimethoxy-4-(2-aminocyclohexyl)benzene | 2.6 g | COC1=C(C=C(C=C1)[C@H]1[C@H](CCCC1)N)OC | C14H21NO2
reactant | 4-methoxycarbonylbenzoyl chloride | 2.4 g | COC(=O)C1=CC=C(C(=O)Cl)C=C1 | C9H7ClO3
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | (+/−)-cis-N-[2-(3,4-dimethoxyphenyl)cyclohexyl]-4-methoxycarbonylbenzamide | COC=1C=C(C=CC1OC)[C@@H]1[C@@H](CCCC1)NC(C1=CC=C(C=C1)C(=O)OC)=O | C23H27NO5
